US07199120B2
3-Bromo-7-chloro-2-(2-furyl)pyrazolo[1,5-a]pyridine (0.3 g, 1 mmol) was dissolved in toluene (10 mL). 2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl (0.048 g, 0.06 mmol), palladium(II)acetate (0.01 g, 0.04 mmol) and cesium carbonate (0.82 g, 2.6 mmol) was added. Cyclopropylamine (0.5 mL) was added and the reaction was heated in an 85° C. oil bath for 4 hours. 2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl (0.048 g, 0.06 mmol), and palladium(II)acetate (0.01 g, 0.04 mmol) were added again and the reaction heated in a 105° C. oil bath for 4 hours. The reaction mixture was poured into equal volumes (10 mL) of saturated aqueous ammonium chloride and ether. The ether layer was collected and the solvent removed in vacuo to give the crude product. The product was purified by silica gel chromatography (6:1 hexane:ethyl acetate) to give 0.25 g (72%) of N-[3-bromo-2-(2-furyl)pyrazolo[1,5-a]pyridin-7-yl]-N-cyclopentylamine as a solid. 1H NMR (CDCl3) δ 7.6 (broad s, 1H), 7.24 (1H), 7.10 (m, 1H), 6.86 (m, 1H), 6.57 (m, 1H), 5.94 (m, 1H), 4.0 (m, 1H), 2.19–2.09 (m, 2H); 1.88–1.77 (m, 4H), 1.77–1.64 (m, 2H); MS m/z 345, 348 (M+1).

reactant | 3-Bromo-7-chloro-2-(2-furyl)pyrazolo[1,5-a]pyridine | 1 mmol, 0.3 g | BrC=1C(=NN2C1C=CC=C2Cl)C=2OC=CC2 | C11H6BrClN2O
reactant | 2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl | 0.06 mmol, 0.048 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 2.6 mmol, 0.82 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Cyclopropylamine | 0.5 mL | C1(CC1)N | C3H7N
reactant | 2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl | 0.06 mmol, 0.048 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II)acetate | 0.04 mmol, 0.01 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II)acetate | 0.04 mmol, 0.01 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ether | CCOCC | C4H10O
product | N-[3-bromo-2-(2-furyl)pyrazolo[1,5-a]pyridin-7-yl]-N-cyclopentylamine | 0.25 g, 72% | BrC=1C(=NN2C1C=CC=C2NC2CCCC2)C=2OC=CC2 | C16H16BrN3O
